US05629322
Methyl 3-methyl-4-nitrohexanoate
A solution of 4 g (40 mmol) of methyl crotonate and 4.72 g (53 mmol) of 1-nitropropane in 20 mL of acetonitrile was treated with 6 mL (40 mmol) of 1,8-diazobicyclo[5.4.0]undec-7-ene (DBU). After stirring for 22 h at room temperature the reaction mixture was diluted with water and acidified with 2N HCl. The solution was extracted with Et2O and the Et2O layer was washed with brine, dried and concentrated. The residue was chromagraphed on a flash column using 10% Et2O-Hexane to isolate 6.41 g (85%) of the title compound.

reactant | methyl crotonate | 40 mmol, 4 g | C(\C=C\C)(=O)OC | C5H8O2
reactant | 1-nitropropane | 53 mmol, 4.72 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | HCl | 2N | Cl | ClH
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | Methyl 3-methyl-4-nitrohexanoate | 6.41 g, 85% | CC(CC(=O)OC)C(CC)[N+](=O)[O-] | C8H15NO4
